US07597882B2
Part 1: Synthesis of Lysine Glutaramide
In this example that demonstrates how this method could be performed, 5 g Lysine, 8.7 g glutaric anhydride and 2.0 g 4-Dimethylaminopyridine (DMAP) are weighed into a 100 ml flask fitted with a condenser and nitrogen inlet. 100 ml DMF is added and the mixture stirred under nitrogen atmosphere for 5 min and immersed into an oil bath preheated to 90° C. for 1.5 h until HPLC assay indicated completion of reaction. DMF is evaporated under vacuum (distilled below 40° C. and the residue is used directly for the subsequent reaction. The residue can be purified by chromatography on silica gel.

reactant | Lysine | 5 g | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | glutaric anhydride | 8.7 g | C1(CCCC(=O)O1)=O | C5H6O3
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
catalyst | 4-Dimethylaminopyridine | 2.0 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Lysine Glutaramide | C(CCCC(=O)N)(=O)N.N[C@@H](CCCCN)C(=O)O | InChI=1S/C6H14N2O2.C5H10N2O2/c7-4-2-1-3-5(8)6(9)10;6-4(8)2-1-3-5(7)9/h5H,1-4,7-8H2,(H,9,10);1-3H2,(H2,6,8)(H2,7,9)/t5-;/m0./s1
